US07576080B2
A mixture of 3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]oxy}propoxy)aniline (10 mg, 0.025 mmol), diisopropylethylamine (13 mg, 0.10 mmol), and dichloromethane (2 mL) was treated with cyclopropanecarbonyl chloride (30 mg, 0.028 mmol) and stirred at room temperature for 6 hours. The solvent was removed in vacuo and the remaining residue was dissolved in ethyl acetate (25 mL), washed with aqueous sodium bicarbonate solution (2×20 mL), and the organic fraction was separated and concentrated. The product was purified by column chromatography over silica gel using 1% methanol and 0.01% ammonia in 1:1 ethyl acetate/hexanes to give 12 mg (quantitative yield) of N-[3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]oxy}propoxy)phenyl]cyclopropanecarboxamide as a yellow gum. MS [M+H] 464.0,

reactant | 3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]oxy}propoxy)aniline | 0.025 mmol, 10 mg | FC1=CC=C(C=C1)C1=CSC=2N=CN=C(C21)OCCCOC=2C=C(N)C=CC2 | C21H18FN3O2S
reactant | diisopropylethylamine | 0.10 mmol, 13 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropanecarbonyl chloride | 0.028 mmol, 30 mg | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-[3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]oxy}propoxy)phenyl]cyclopropanecarboxamide | 12 mg, quantitative yield | FC1=CC=C(C=C1)C1=CSC=2N=CN=C(C21)OCCCOC=2C=C(C=CC2)NC(=O)C2CC2 | C25H22FN3O3S
